US03996374
4.8 G. of 2-{2-[(benzyloxycarbonyl)amino]-ethyl}-5-chloro-3-phenylisoindole-1-carboxylic acid ethyl ester are dissolved in 10 ml. of glacial acetic acid; 15 ml. of a solution of 33% hydrobromic acid in glacial acetic acid are added. The mixture is left to stand for 2 hours at room temperature with occasional shaking and then poured into 150 ml. of ether. The precipitated crystals are removed by filtration under suction and washed with ether. Recrystallization from ethanol yields 2-(2-aminoethyl)-5-chloro-3-phenylisoindole-1-carboxylic acid ethyl ester hydrobromide; melting point 230°-234° C. (decomposition).

reactant | 2-{2-[(benzyloxycarbonyl)amino]-ethyl}-5-chloro-3-phenylisoindole-1-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)CCNC(=O)OCC1=CC=CC=C1 | C27H25ClN2O4
reactant | hydrobromic acid | Br | BrH
reactant | ether | CCOCC | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(2-aminoethyl)-5-chloro-3-phenylisoindole-1-carboxylic acid ethyl ester hydrobromide | Br.C(C)OC(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)CCN | InChI=1S/C19H19ClN2O2.BrH/c1-2-24-19(23)18-15-9-8-14(20)12-16(15)17(22(18)11-10-21)13-6-4-3-5-7-13;/h3-9,12H,2,10-11,21H2,1H3;1H
